US05128355
Part A: Preparation of 2-n-Butyl-4-chloro-5-methoxymethyl-1-(4-nitrobenzyl)imidazole
2-n-butyl-4-chloro-5-hydroxymethyl-1-(4-nitrobenzyl)imidazole (10.5 g, 32.4 mmol, 1 eq), conc. sulfuric acid (26 mL) and methanol (300 mL) were mixed and refluxed overnight. The solvent was removed in vacuo and the residue taken up in water (about 300 mL). The pH was adjusted to 5 with 1N NaOH and then this aqueous portion extracted with ethyl acetate (3×250 mL). The organic layers were collected, dried (MgSO4) and the solvent removed in vacuo to yield 11.57 g of an amber oil. NMR (200 MHz, CDCl3) δ 8.22 (d, 2H, J=8Hz); 7.15 (d, 2H, J=8Hz); 5.26 (s, 2H); 4.25 (s, 2H); 3.23 (s, 3H); 2.52 (t, 2H, J=7Hz); 1.64 (t of t, 2H, J=7,7Hz); 1.28 (t of q, 2H, J=7,7Hz); 0.81 (t, 3H, J=7Hz). Anal. Calcd. for C16H20ClN3O3.(H2O)0.5 : C, 55.41; H, 6.10; Cl, 10.22. Found: C, 55.21; H, 6.22; Cl, 9.92.

reactant | 2-n-butyl-4-chloro-5-hydroxymethyl-1-(4-nitrobenzyl)imidazole | 32.4 mmol, 10.5 g, 1 eq | C(CCC)C=1N(C(=C(N1)Cl)CO)CC1=CC=C(C=C1)[N+](=O)[O-] | C15H18ClN3O3
reactant | sulfuric acid | 26 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 300 mL | CO | CH4O
product | 2-n-Butyl-4-chloro-5-methoxymethyl-1-(4-nitrobenzyl)imidazole | 11.57 g | C(CCC)C=1N(C(=C(N1)Cl)COC)CC1=CC=C(C=C1)[N+](=O)[O-] | C16H20ClN3O3
